US04957928
4.01 g (21 mmol) of 4-toluenesulfonyl chloride are added while stirring at room temperature to a solution of 4.48 g (20 mmol) of 2,2-dimethyl-6-fluoro-3-(2-hydroxyethyl)-chroman in 30 ml of absolute pyridine, the slightly exothermic reaction being maintained at room temperature with an ice bath. The reaction mixture is then stirred at room temperature for 2 hours, then poured onto ice-water and the mixture is extracted with diethyl ether. The combined organic phases are washed while cold with 2N hydrochloric acid and then with water, dried over sodium sulfate and concentrated by evaporation in vacuo, yielding 6.5 g (85.8% of the theoretical yield) of 2,2-dimethyl-6-fluoro-3-[2-(4-toluenesulfonyloxy)-ethyl]-chroman in the form of a light-yellow oil.

reactant | 4-toluenesulfonyl chloride | 21 mmol, 4.01 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2,2-dimethyl-6-fluoro-3-(2-hydroxyethyl)-chroman | 20 mmol, 4.48 g | CC1(OC2=CC=C(C=C2CC1CCO)F)C | C13H17FO2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-dimethyl-6-fluoro-3-[2-(4-toluenesulfonyloxy)-ethyl]-chroman | CC1(OC2=CC=C(C=C2CC1CCOS(=O)(=O)C1=CC=C(C=C1)C)F)C | C20H23FO4S
